US07560551B2
A brown solution of 3-benzoylfuran-2-carboxylic acid (0.770 g, 3.56 mmol) and anhydrous hydrazine (0.568 ml, 17.8 mmol) was heated to 100° C. in a sealed tube for approx. 72 h. The reaction was cooled, and diluted with sat'd aq. NH4Cl and EtOAc. The organic layer was washed with sat'd aq. NH4Cl and brine, and dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give 4-phenylfuro[3,2-d]pyridazin-7-ol which was carried on without further purification. MS m/z=213 [M+H]+. Calc'd for C12H8N2O2: 212.2.

reactant | 3-benzoylfuran-2-carboxylic acid | 3.56 mmol, 0.770 g | C(C1=CC=CC=C1)(=O)C1=C(OC=C1)C(=O)O | C12H8O4
reactant | hydrazine | 17.8 mmol, 0.568 ml | NN | H4N2
solvent | NH4Cl | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-phenylfuro[3,2-d]pyridazin-7-ol | C1(=CC=CC=C1)C1=NN=C(C2=C1C=CO2)O | C12H8N2O2
